US07553840B2
6.16. Synthesis of (S)-2-Amino-3-[4-(2-amino-6-{2,2,2-trifluoro-1-[5-methoxy-2-(4-methyl-pyrazol-1-yl)-phenyl]-ethoxy}-pyrimidin-4-yl)-phenyl]-propionic Acid
2,2,2-Trifluoro-1-[5-methoxy-2-(4-methyl-pyrazol-1-yl)-phenyl]-ethanol (0.090 g, 0.31 mmol), (S)-3-[4-(2-amino-6-chloro-pyrimidine-4-yl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid (0.122 g, 0.31 mmol), 1,4-dioxane (2 ml), Cs2CO3 (0.503 g, 1.55 mmol) were combined in a microwave vial and heated to 180° C. for 45 min. The mixture was filtered and concentrated. To the residue, 5% methanol in DCM (50 ml) was added. The mixture was filtered. The filtrate was concentrated to give crude product which was taken in 20% TFA in DCM (30 ml) and stirred for 30 minutes at room temperature. LCMS indicated the completion of the reaction with desired product. The reaction mixture was concentrated to give crude product, which was dissolved in MeOH and H2O (1:1), and purified by preparative HPLC using MeOH/H2O/TFA as solvent system to give (S)-2-amino-3-[4-(2-amino-6-{2,2,2-trifluoro-1-[5-methoxy-2-(4-methyl-pyrazol-1-yl)-phenyl]-ethoxy]-pyrimidin-4-yl)-phenyl]-propionic acid.

reactant | 2,2,2-Trifluoro-1-[5-methoxy-2-(4-methyl-pyrazol-1-yl)-phenyl]-ethanol | 0.31 mmol, 0.090 g | FC(C(O)C1=C(C=CC(=C1)OC)N1N=CC(=C1)C)(F)F | C13H13F3N2O2
reactant | (S)-3-[4-(2-amino-6-chloro-pyrimidine-4-yl)-phenyl]-2-tert-butoxycarbonylamino-propionic acid | 0.31 mmol, 0.122 g | NC1=NC(=CC(=N1)C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C)Cl | C18H21ClN4O4
reactant | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
reactant | Cs2CO3 | 1.55 mmol, 0.503 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | (S)-2-Amino-3-[4-(2-amino-6-{2,2,2-trifluoro-1-[5-methoxy-2-(4-methyl-pyrazol-1-yl)-phenyl]-ethoxy}-pyrimidin-4-yl)-phenyl]-propionic Acid | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC(=NC(=C1)OC(C(F)(F)F)C1=C(C=CC(=C1)OC)N1N=CC(=C1)C)N | C26H25F3N6O4
